US08138355B2
To a 200 ml Schlenk reaction vessel were added under a nitrogen atmosphere 2.7 ml (24.0 mmol) of 1,2-dichlorobenzene, 66 mg (0.12 mmol) of nickel chloride {bis(diphenylphosphino)propane}, and 18 ml of diethyl ether. The whole was cooled to 0° C. and 65 ml (65 mmol) of a diethyl ether solution of n-dodecylmagnesium bromide (manufactured by Sigma-Aldrich, 1.0M) was added dropwise. After 11 hours of the reaction at 35° C., the reaction was stopped by adding 3N hydrochloric acid. The mixture was extracted with diethyl ether and the organic phase was washed with water and a saturated aqueous sodium hydrogen carbonate solution. The phase was dried over calcium chloride and the solvent was concentrated under reduced pressure. The residue was dried under vacuum (20 Pa) at 170° C. to obtain a liquid of 1,2-didodecylbenzene (8.36 g, yield 84%).

reactant | 1,2-dichlorobenzene | 24.0 mmol, 2.7 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | n-dodecylmagnesium bromide | 1.0M | C(CCCCCCCCCCC)[Mg]Br
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | nickel chloride | 0.12 mmol, 66 mg | [Ni](Cl)Cl
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 65 mmol, 65 ml | C(C)OCC | C4H10O
product | 1,2-didodecylbenzene | 8.36 g, yield 84% | C(CCCCCCCCCCC)C1=C(C=CC=C1)CCCCCCCCCCCC | C30H54
